US04870064
A mixture of 3-chloro-4,5-dipropargyloxybenzaldehyde (1.00 g) and aniline (0.37 g) in benzene (30 ml) was stirred under reflux for 3 hours, followed by concentration under reduced pressure to give N-(3-chloro-4,5-dipropargyloxybenzyliden)aniline (1.30 g). nD23.0 1.5890.

reactant | 3-chloro-4,5-dipropargyloxybenzaldehyde | 1.00 g | ClC=1C=C(C=O)C=C(C1OCC#C)OCC#C | C13H9ClO3
reactant | aniline | 0.37 g | NC1=CC=CC=C1 | C6H7N
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | N-(3-chloro-4,5-dipropargyloxybenzyliden)aniline | 1.30 g | ClC=1C=C(C=NC2=CC=CC=C2)C=C(C1OCC#C)OCC#C | C19H14ClNO2
